US06531502B1
POCl3 (0.35 mL, 3.74 mmol) was added dropwise to DMF (0.8 mL, 10.3 mmol) at −5° C. After stirring at room temperature for 30 min, the mixture was cooled to −5° C. A solution of [3-(6,6-dimethyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-diethylamine (0.9 g, 3.4 mmol) in DMF (2 mL) was then added dropwise. The mixture was stirred at room temperature for 3 hours and then quenched with ice, followed by 10 N KOH to adjust pH to 10-11. After stirring at room temperature for 1 hour, the mixture was extracted with EtOAc, washed with brine, dried and concentrated to give 0.55 g 3-(3-diethylaminopropyl)-6,6-dimethyl-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde.

reactant | POCl3 | 3.74 mmol, 0.35 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | [3-(6,6-dimethyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-diethylamine | 3.4 mmol, 0.9 g | CC1(CCC=2C(=CNC2C1)CCCN(CC)CC)C | C17H30N2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | DMF | 10.3 mmol, 0.8 mL | CN(C)C=O | C3H7NO
product | 3-(3-diethylaminopropyl)-6,6-dimethyl-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | 0.55 g | C(C)N(CCCC1=C(NC=2CC(CCC12)(C)C)C=O)CC | C18H30N2O
